US08420640B2
A solution of 5-(4-benzoylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine (2.0 g, 5.00 mmol), methyl iodide (0.31 ml, 5.00 mmol) and sodium hydroxide (0.26 g, 6.5 mmol) in 25 ml DMF was stirred at 0° C. for 2 hours. 100 ml water was added to the mixture to quench the run, and the mixture was extracted with ethyl acetate (2×20 ml). The extraction was washed with water (3×30 ml) and dried over anhydrous sodium sulfate. N-methyl-5-(4-benzoylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine (1.8 g, 90%) was obtained after remove of solvents. 1H NMR (500 MHz, CDCl3) δ (ppm) 3.38 (s, 3H), 3.37-3.87 (m, 8H), 6.72 (m, 4H), 6.84 (m, 1H), 7.21 (m, 2H), 7.45 (m, 5H), 8.07 (d, J=9.9 Hz, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 40.5, 47.7, 47.9, 111.1, 114.6, 115.3, 119.8, 127.6, 129.1, 129.2, 129.6, 130.7, 135.6, 137.3, 145.4, 148.4, 155.1, 171.0.

reactant | 5-(4-benzoylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine | 5.00 mmol, 2.0 g | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C=1C=CC(=C(C1)NC1=CC=CC=C1)[N+](=O)[O-] | C23H22N4O3
reactant | methyl iodide | 5.00 mmol, 0.31 ml | CI | CH3I
reactant | sodium hydroxide | 6.5 mmol, 0.26 g | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | N-methyl-5-(4-benzoylpiperazin-1-yl)-2-nitro-N-phenylbenzenamine | 1.8 g, 90% | CN(C1=C(C=CC(=C1)N1CCN(CC1)C(C1=CC=CC=C1)=O)[N+](=O)[O-])C1=CC=CC=C1 | C24H24N4O3
